US06995153B2
In a similar manner to Reference Example 23, 3-amino-1-propanol (52.0 g) was reacted with 4-fluorobenzylchloride (10.0 g) to obtain 3-(4-fluorobenzylamino)-1-propanol (8.10 g, 64%).

reactant | 3-amino-1-propanol | 52.0 g | NCCCO | C3H9NO
reactant | 4-fluorobenzylchloride | 10.0 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
product | 3-(4-fluorobenzylamino)-1-propanol | 8.10 g, 64% | FC1=CC=C(CNCCCO)C=C1 | C10H14FNO
